US04960897
Preparation of 4-(1-chloromethylvinyl)-2,6-dichloropyridine (Compound No. I-12)
A mixture of 26.3 g of 2,6-dichloro-4-isopropenylpyridine, 33.4 g of N-chlorosuccinimide, 2 g of t-butylhydroperoxide and 30 ml of carbon tetrachrolide was stirred at 180° C. for 5 hours while being irradiated with light. After the reaction mixture was cooled to room temperature, the insoluble matter was filtered out. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (eluted with ethyl acetate-n-hexane 1:20) to obtain 9.86 g of the objective compound.

reactant | 2,6-dichloro-4-isopropenylpyridine | 26.3 g | ClC1=NC(=CC(=C1)C(=C)C)Cl | C8H7Cl2N
reactant | N-chlorosuccinimide | 33.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | t-butylhydroperoxide | 2 g | C(C)(C)(C)OO | C4H10O2
product | 4-(1-chloromethylvinyl)-2,6-dichloropyridine | 9.86 g | ClCC(=C)C1=CC(=NC(=C1)Cl)Cl | C8H6Cl3N
